US07396944B2
To a cooled (5-10° C.) solution of 4.6 ml (0.014 mol) methyl magnesium iodide solution (3M in diethyl ether) and 5.8 ml (0.042 mol) triethylamine in 10 ml toluene, a solution of 2.06 g (0.00723 mol) 5-(3-trifluoromethyl-phenyl)-isoxazole-3-carboxylic acid ethyl ester in 20 ml toluene was added dropwise. After the addition was complete, the reaction mixture was stirred at 0-5° C. for 2 h and then treated with 5.6 ml 4N aqueous HCl solution. The mixture was filtered over celite. The aqueous phase was separated and the organic layer was washed with water, 5% aqueous NaHCO3 solution and twice with water. The organic phase was dried over magnesium sulfate and the solvent was evaporated. The residue was dissolved in a mixture of 28 ml MeOH and 0.45 ml 20% aqueous KOH solution. The solution was heated to 45° C. for 30 min, then cooled and acidified to pH 2 by addition of 6N HCl. The solvent was evaporated and the residue was mixed with toluene and aqueous NaHCO3 solution. The mixture was filtered over celite. The organic layer was separated and the solvent was evaporated to yield 0.7 g (0.00274 mol) 1-[5-(3-trifluoromethyl-phenyl)-isoxazol-3-yl]-ethanone.

reactant | methyl magnesium iodide | 0.014 mol, 3M, 4.6 ml | C[Mg]I
reactant | triethylamine | 0.042 mol, 5.8 ml | C(C)N(CC)CC | C6H15N
reactant | 5-(3-trifluoromethyl-phenyl)-isoxazole-3-carboxylic acid ethyl ester | 0.00723 mol, 2.06 g | C(C)OC(=O)C1=NOC(=C1)C1=CC(=CC=C1)C(F)(F)F | C13H10F3NO3
reactant | HCl | 4N, 5.6 ml | Cl | ClH
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[5-(3-trifluoromethyl-phenyl)-isoxazol-3-yl]-ethanone | 0.00274 mol, 0.7 g | FC(C=1C=C(C=CC1)C1=CC(=NO1)C(C)=O)(F)F | C12H8F3NO2
